* D:\Users\erics\Documents\16B\EE Sims\tone_detect.asc
XU1 0 N004 +15V -15V N002 LM741
V1 +15V 0 15
V2 -15V 0 -15
C1 N002 N001 {C}
C2 N004 N001 {C}
R2 N001 0 {R2}
R1 in N001 {R1}
R3 N002 N004 {R3}
V3 in 0 wavefile="samp.wav" chan=0
XU2 0 N005 +15V -15V out LM741
C3 out N003 {C}
C4 N005 N003 {C}
R5 N003 0 {R5}
R4 N002 N003 {R4}
R6 out N005 {R6}
B1 N006 0 V=V(in)*10
C5 N007 N006 10µ
D1 0 N007 1N4148
D2 N007 vu_in 1N4148
C6 vu_in 0 4.7µ
R7 vu_in 0 10k
B2 N008 0 V=V(out)*10
C7 N009 N008 10µ
D3 0 N009 1N4148
D4 N009 vu_out 1N4148
C8 vu_out 0 4.7µ
R8 vu_out 0 10k
.model D D
.lib D:\Users\erics\Documents\LTspiceXVII\lib\cmp\standard.dio
.param C=0.1uF R1=1.7472156052756345k R2=0.04365726231035179k R3=4.963399532458674k R4=1.4497799629589634k R5=0.036225308395872874k R6=4.118459775995007k
.tran 2
.wave "in.wav" 16 44.1k V(in) V(in)
.wave "out.wav" 16 44.1k V(out) V(out)
.lib LM741.lib
.backanno
.end
