* E:\05_work\00_dev\8B\Hardware\EE Sims\WE.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N001 0 PULSE(0 5 0 1n 1n {0.5/fck} {1/fck})
R1 N004 0 1k
C1 N004 N003 100p
A1 N001 0 0 0 0 N002 0 0 BUF Vhigh=5 td=5n
A2 N002 0 0 0 0 N003 0 0 BUF Vhigh=5 td=5n
A3 N004 0 0 0 0 WE# 0 0 BUF Vhigh=5 td=5n
.param fck=1e6
.tran {3/fck}
.backanno
.end
